US07727989B2
(b) 3-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde
5 g of 5-bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde, 1.013 g of (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) chloride and 767.3 mg of 1,1′-bis(diphenylphosphino)ferrocene are dissolved in 400 ml of dioxane, and argon is passed through the solution. Then 5.27 g of bis(pinacolato)diboron and 4.075 g of potassium acetate are added, and the mixture is stirred at 80° C. for 16 hours. For workup, the solvent is distilled off, the residue is dissolved in dichloromethane, the solution is filtered and the solvent is distilled off. The crude product is purified by silica gel chromatography (heptane/ethyl acetate).

reactant | 5-bromo-3-methoxy-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde | 5 g | BrC=1C=C(C(=C(C=O)C1)OCOCC[Si](C)(C)C)OC | C14H21BrO4Si
reactant | bis(pinacolato)diboron | 5.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.075 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 767.3 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(2-trimethylsilanylethoxymethoxy)benzaldehyde | COC=1C(=C(C=O)C=C(C1)B1OC(C(O1)(C)C)(C)C)OCOCC[Si](C)(C)C | C20H33BO6Si
